US09422281B2
A mixture of (S)-1-(7-bromo-3-methyl-1-tosyl-2,3-dihydropyrido[3,4-b]pyrazin-4(1H)-yl)ethanone (0.010 g, 0.024 mmol), 4-(methylsulfonyl)phenylboronic acid (4.95 mg, 0.025 mmol), tris(dibenzylideneacetone)dipalladium (1.1 mg, 1.2 μmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (XPhos) (1.1 mg, 2.4 μmol), and cesium carbonate (0.023 g, 0.071 mmol) in 1,4-dioxane (1.5 mL) and water (0.30 mL) were stirred at 80° C. for 2 h. The reaction mixture was filtered through Celite and concentrated to afford an orange solid. This material was purified via column chromatography on silica gel (Biotage 10 g column, gradient elution with 0-100% ethyl acetate-hexane) to afford (S)-1-(3-methyl-7-(4-(methylsulfonyl)phenyl)-1-tosyl-2,3-dihydropyrido[4,3-b]pyrazin-4(1H)-yl)ethanone (0.006 g, 51%) as an off-white solid. MS (ESI, pos. ion) m/z 500.

reactant | (S)-1-(7-bromo-3-methyl-1-tosyl-2,3-dihydropyrido[3,4-b]pyrazin-4(1H)-yl)ethanone | 0.024 mmol, 0.010 g | BrC1=CC2=C(N([C@H](CN2S(=O)(=O)C2=CC=C(C)C=C2)C)C(C)=O)C=N1 | C17H18BrN3O3S
reactant | 4-(methylsulfonyl)phenylboronic acid | 0.025 mmol, 4.95 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 2.4 μmol, 1.1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.071 mmol, 0.023 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.30 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 1.2 μmol, 1.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-1-(3-methyl-7-(4-(methylsulfonyl)phenyl)-1-tosyl-2,3-dihydropyrido[4,3-b]pyrazin-4(1H)-yl)ethanone | 0.006 g, 51% | C[C@@H]1N(C2=C(N(C1)S(=O)(=O)C1=CC=C(C)C=C1)C=C(N=C2)C2=CC=C(C=C2)S(=O)(=O)C)C(C)=O | C24H25N3O5S2
